US07687515B2
6-(4-Ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (300 mg, 0.90 mmol) was dissolved in THF (10 ml), 2-bromoethanol was added (225 mg, 1.80 mmol) followed by betaine (738 mg, 1.80 mmol), and the mixture was stirred at room temperature for 3 hours. A further 0.5 equivalents of betaine (0.45 mmol, 162 mg) was added and the mixture was stirred at room temperature for a further hour. Mixture was partitioned between ethyl acetate (20 ml) and water (20 ml). Organics were dried and evaporated then flash chromatographed over silica (10 g Combiflash cartridge, DCM to 1% methanol in DCM) to afford a white solid which was mixture of N-1 and N-3 alkylated products. Mixture was flash chromatographed over silica (10 g Flashmaster cartridge, toluene to 20% ethyl acetate in toluene) to afford 130 mg of 1-(2-bromo-ethyl)-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile as a white solid. 1H NMR (DMSO) δ 8.80 (s, 1H), 8.74 (s, 1H), 8.48-8.39 (m, 2H), 7.44 (d, 1H), 4.88 (t, 2H), 4.29 (q, 2H), 4.05 (t, 2H), 1.40 (t, 3H).

reactant | 6-(4-Ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 0.90 mmol, 300 mg | C(C)OC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2)C(F)(F)F | C16H11F3N4O
reactant | 2-bromoethanol | BrCCO | C2H5BrO
reactant | betaine | 1.80 mmol, 738 mg | C[N+](C)(C)CC(=O)O
reactant | betaine | 0.45 mmol, 162 mg, 0.5 equivalents | C[N+](C)(C)CC(=O)O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(2-bromo-ethyl)-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 130 mg | BrCCN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCC)C(F)(F)F)C#N | C18H14BrF3N4O
